US06403830B2
2-[(1,1-dimethylethoxycarbonyl)-amino]ethyl bromide
A 5 L RB flask equipped with overhead stirrer, thermocouple and nitrogen inlet was charged with 3 liters of ethyl acetate and agitation started. To this was added di-tert-butyldicarbonate(545 g, 2.50 moles) and 2-bromoethylamine hydrobromide (553.7 g, 2.70 moles) under a nitrogen blanket. The batch was cooled to 5° C. in an ice bath and N-methylmorpholine, (273 g, 2.70 moles) was added dropwise over ca. 0.5 h. After the addition was complete, the batch was allowed to stir overnight and warm to ambient temperature. After 16 h, the batch was quenched by adding 1.5 L of DI water. The organic layer was washed with dilute HCl, sodium bicarbonate solution followed by brine. The dried organic solution had solvents removed to give an oil that froze to a light yellow solid. A total of 496 g (88% yield) of the title product was obtained in approx. 96% purity.

reactant | di-tert-butyldicarbonate | 2.50 moles, 545 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | 2-bromoethylamine hydrobromide | 2.70 moles, 553.7 g | Br.BrCCN
reactant | N-methylmorpholine | 2.70 moles, 273 g | CN1CCOCC1 | C5H11NO
solvent | ethyl acetate | 3 liters | C(C)(=O)OCC | C4H8O2
product | 2-[(1,1-dimethylethoxycarbonyl)-amino]ethyl bromide | 496 g, 88% yield | CC(C)(OC(=O)NCCBr)C | C7H14BrNO2
